### PR TITLE
[Merged by Bors] - feat(Algebra/Star/Unitary): characterize unitary elements in rings with trivial star

### PR DESCRIPTION
**Pull request by dennj**
In a ring without zero divisors and with trivial star, the only unitary elements are `1` and `-1`.

### CODE REVIEW

File: Mathlib/Algebra/Star/Unitary.lean [hunk 1]
```diff
@@ -424,6 +424,19 @@ lemma spectrum_star_left_conjugate {a : A} {U : unitary A} :
...
+theorem mem_iff_eq_one_or_eq_neg_one [Ring R] [StarRing R] [TrivialStar R] [NoZeroDivisors R]
+    {a : R} : a ∈ unitary R ↔ a = 1 ∨ a = -1 := by
+  simp [mem_iff, mul_self_eq_one_iff]
+
+/-- In a ring without zero divisors and with trivial star, the unitary elements are exactly `1`
+and `-1`. -/
+theorem coe_unitary_eq_insert_neg_one (R : Type*) [Ring R] [StarRing R] [TrivialStar R]
+    [NoZeroDivisors R] : (unitary R : Set R) = {1, -1} := by
+  ext a
+  simp [mem_iff_eq_one_or_eq_neg_one]
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/Unitary.lean]: Can you move this out of the namespace, I don't think it should be called `Unitary.coe_unitary_...`.

But, also, I don't understand the name choice `_insert_` here. Not entirely sure what a better name for this could be, maybe just `_eq_one_neg_one`?

Comment (dennj) [reply Mathlib/Algebra/Star/Unitary.lean]: done

-awaiting-author

File: Mathlib/Algebra/Star/Unitary.lean [hunk 2]
```diff
@@ -424,8 +424,21 @@ lemma spectrum_star_left_conjugate {a : A} {U : unitary A} :
...
+  simp [mem_iff, mul_self_eq_one_iff]
+
 end Unitary
 
+/-- In a ring without zero divisors and with trivial star, the unitary elements are exactly `1`
+and `-1`. -/
+theorem coe_unitary_eq_one_neg_one (R : Type*) [Ring R] [StarRing R] [TrivialStar R]
+    [NoZeroDivisors R] : (unitary R : Set R) = {1, -1} := by
+  ext a
+  simp [Unitary.mem_iff_eq_one_or_eq_neg_one]
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/Unitary.lean]: pretty sure this will work:

```suggestion
  simp [Set.ext_iff, Unitary.mem_iff_eq_one_or_eq_neg_one]
```

File: Mathlib/Algebra/Star/Unitary.lean [hunk 3]
```diff
@@ -424,8 +424,21 @@ lemma spectrum_star_left_conjugate {a : A} {U : unitary A} :
...
+theorem mem_iff_eq_one_or_eq_neg_one [Ring R] [StarRing R] [TrivialStar R] [NoZeroDivisors R]
+    {a : R} : a ∈ unitary R ↔ a = 1 ∨ a = -1 := by
+  simp [mem_iff, mul_self_eq_one_iff]
+
 end Unitary
 
+/-- In a ring without zero divisors and with trivial star, the unitary elements are exactly `1`
+and `-1`. -/
+theorem coe_unitary_eq_one_neg_one (R : Type*) [Ring R] [StarRing R] [TrivialStar R]
+    [NoZeroDivisors R] : (unitary R : Set R) = {1, -1} := by
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/Unitary.lean]: final thing, let's do `{-1, 1}` instead of `{1, -1}`

```suggestion
    [NoZeroDivisors R] : (unitary R : Set R) = {-1, 1} := by
```
you'll need to add `or_comm` to the simp set in the proof

File: Mathlib/Algebra/Star/Unitary.lean (hunk 2 above)
Comment (dennj) [reply Mathlib/Algebra/Star/Unitary.lean]: yes work

File: Mathlib/Algebra/Star/Unitary.lean (hunk 3 above)
Comment (dennj) [reply Mathlib/Algebra/Star/Unitary.lean]: done

File: Mathlib/Algebra/Star/Unitary.lean [hunk 4]
```diff
@@ -424,8 +424,20 @@ lemma spectrum_star_left_conjugate {a : A} {U : unitary A} :
...
+and `-1`. -/
+theorem mem_iff_eq_one_or_eq_neg_one [Ring R] [StarRing R] [TrivialStar R] [NoZeroDivisors R]
+    {a : R} : a ∈ unitary R ↔ a = 1 ∨ a = -1 := by
+  simp [mem_iff, mul_self_eq_one_iff]
+
 end Unitary
 
+/-- In a ring without zero divisors and with trivial star, the unitary elements are exactly `1`
+and `-1`. -/
+theorem coe_unitary_eq_neg_one_one (R : Type*) [Ring R] [StarRing R] [TrivialStar R]
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/Unitary.lean]: Thanks! I just have one question to others: is this an okay name for this?

maintainer merge?

File: Mathlib/Algebra/Star/Unitary.lean [hunk 5]
```diff
@@ -424,8 +424,20 @@ lemma spectrum_star_left_conjugate {a : A} {U : unitary A} :
...
+    [NoZeroDivisors R] : (unitary R : Set R) = {-1, 1} := by
+  simp [Set.ext_iff, Unitary.mem_iff_eq_one_or_eq_neg_one, or_comm]
+
```
Comment (ocfnash) [inline Mathlib/Algebra/Star/Unitary.lean]: I'm not convinced this spelling will be useful. I'd rather wait and see if we ever need it before adding it. I suggest we drop it and just keep `mem_iff_eq_one_or_eq_neg_one` above.
```suggestion
```

**Review by ocfnash — APPROVED** [review]
Thanks!

**Comment by ocfnash** [comment]
bors merge
